US08957066B2
(E)-tert-butyl (2-(3-(imidazo[1,2-a]pyridin-3-yl)acrylamido)phenyl)carbamate
Diisopropylethylamine (DIPEA, 0.34 g, 2.63 mmol) was added to a solution of (E)-3-(imidazo[1,2-a]pyridin-3-yl)acrylic acid (0.17 g, 0.88 mmol) in 20 mL of dichloromethane (DCM). After addition of tert-butyl-2-aminophenylcarbamate (0.22 g, 1.65 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, 0.43 g, 1.14 mmol) the reaction mixture was stirred overnight at room temperature under a nitrogen atmosphere. After completion of the reaction as indicated by HPLC, the reaction mixture was washed with saturated sodium bicarbonate (NaHCO3) and brine. It was dried over Na2SO4, filtered and evaporated to give crude (E)-tert-butyl (2-(3-(imidazo[1,2-a]pyridin-3-yl)acrylamido)phenyl)carbamate. The solid was washed with ethyl acetate (50 mL) and saturated NaHCO3 gave pure product as a light colored solid (0.11 g). ES+(M+H)+379.

reactant | Diisopropylethylamine | 2.63 mmol, 0.34 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-(imidazo[1,2-a]pyridin-3-yl)acrylic acid | 0.88 mmol, 0.17 g | N=1C=C(N2C1C=CC=C2)/C=C/C(=O)O | C10H8N2O2
reactant | tert-butyl-2-aminophenylcarbamate | 1.65 mmol, 0.22 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 1.14 mmol, 0.43 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (E)-tert-butyl (2-(3-(imidazo[1,2-a]pyridin-3-yl)acrylamido)phenyl)carbamate | 0.11 g | N=1C=C(N2C1C=CC=C2)/C=C/C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O | C21H22N4O3
